US07732461B2
3-Chloro-4-[(4-{[(8-fluoro-2,3-dihydro-1,4-benzodioxin-6-yl)methyl]amino}-1-piperidinyl)methyl]-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one Hydrochloride
The free base of the title compound was prepared from 4-[(4-amino-1-piperidinyl)methyl]-3-chloro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one (32 mg) and 8-fluoro-2,3-dihydro-1,4-benzodioxin-6-carboxaldehyde (18.2 mg) according to the general method of Example 2(h) in 56% yield.

reactant | 4-[(4-amino-1-piperidinyl)methyl]-3-chloro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one | 32 mg | NC1CCN(CC1)CC1CN2C=3C1=C(C=NC3C=CC2=O)Cl | C16H19ClN4O
reactant | 8-fluoro-2,3-dihydro-1,4-benzodioxin-6-carboxaldehyde | 18.2 mg | FC1=CC(=CC2=C1OCCO2)C=O | C9H7FO3
product | 3-Chloro-4-[(4-{[(8-fluoro-2,3-dihydro-1,4-benzodioxin-6-yl)methyl]amino}-1-piperidinyl)methyl]-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one Hydrochloride | 56% yield | Cl.ClC=1C=NC=2C=CC(N3C2C1C(C3)CN3CCC(CC3)NCC3=CC1=C(OCCO1)C(=C3)F)=O | InChI=1S/C25H26ClFN4O3.ClH/c26-18-12-29-20-1-2-22(32)31-14-16(23(18)24(20)31)13-30-5-3-17(4-6-30)28-11-15-9-19(27)25-21(10-15)33-7-8-34-25;/h1-2,9-10,12,16-17,28H,3-8,11,13-14H2;1H
